US09107916B2
C. 2-[5-[(4-cyano-2-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylic acid
Charged methyl 2-[5-[(4-cyano-2-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylate (112 mg, 0.32 mmol), LiOH.H2O (14 mg, 0.32 mmol), water (2 mL) and THF (2 mL) to a flask, then the mixture was stirred at room temperature for 30 min, added another 2 mL water, and the mixture was washed with ethyl acetate twice (6 mL×2). The aqueous phase was acidified with 1N HCl (pH=3), filtered and dried the solid to give the title compound. 1H NMR (300 MHz, DMSO-d6): δ 2.37 (3H, s), 5.37 (2H, s), 6.10 (1H, d, J=1.8 Hz), 7.62 (1H, d, J=1.5 Hz), 7.70-7.77 (4H, m), 8.08 (1H, s), 8.68 (1H, d, J=5.4 Hz). [M+H] Calc'd for C18H14N4O3, 335. Found, 335.

reactant | methyl 2-[5-[(4-cyano-2-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylate | 0.32 mmol, 112 mg | C(#N)C1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C(=O)OC)C | C19H16N4O3
reactant | LiOH.H2O | 0.32 mmol, 14 mg | O[Li].O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | 2-[5-[(4-cyano-2-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carboxylic acid | C(#N)C1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C(=O)O)C | C18H14N4O3
